US07871985B2
3-({6-[17-(1,5-Dimethyl-hexyl)-10,13-dimethyl-2,3,4,7,8,9,10,11,12,13,14,15,16,17-tetradecahydro-1H-cyclopenta[a]phenanthren-3-yloxycarbonylamino]-hexanoyl}ethoxycarbonylmethyl-amino)-propionic acid ethyl ester AD
The hydrochloride salt of 3-[(6-Amino-hexanoyl)-ethoxycarbonylmethyl-amino]-propionic acid ethyl ester AC (4.7 g, 14.8 mmol) is taken up in dichloromethane. The suspension is cooled to 0° C. on ice. To the suspension diisopropylethylamine (3.87 g, 5.2 mL, 30 mmol) is added. To the resulting solution cholesteryl chloroformate (6.675 g, 14.8 mmol) is added. The reaction mixture is stirred overnight. The reaction mixture is diluted with dichloromethane and ished with 10% hydrochloric acid. The product is purified by flash chromatography (10.3 g, 92%).

reactant | 3-[(6-Amino-hexanoyl)-ethoxycarbonylmethyl-amino]-propionic acid ethyl ester | C(C)OC(CCN(CC(=O)OCC)C(CCCCCN)=O)=O | C15H28N2O5
reactant | diisopropylethylamine | 30 mmol, 5.2 mL, 3.87 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cholesteryl chloroformate | 14.8 mmol, 6.675 g | C[C@H](CCCC(C)C)[C@H]1CCC2[C@@]1(CCC3C2CC=C4[C@@]3(CCC(C4)OC(=O)Cl)C)C | C28H45ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-({6-[17-(1,5-Dimethyl-hexyl)-10,13-dimethyl-2,3,4,7,8,9,10,11,12,13,14,15,16,17-tetradecahydro-1H-cyclopenta[a]phenanthren-3-yloxycarbonylamino]-hexanoyl}ethoxycarbonylmethyl-amino)-propionic acid ethyl ester | C(C)OC(CCN(CC(=O)OCC)C(CCCCCNC(=O)OC1CCC2(C3CCC4(C(CCC4C3CC=C2C1)C(CCCC(C)C)C)C)C)=O)=O | C43H72N2O7
